US06001997
(a) (2RS,3SR)-3-Methyl-2-Tetrahydrofuroic acid
3-Methyl-2-furoic acid (5 g) in ethyl acetate (100 ml) and 5% rhodium on charcoal catalyst (0.5 g) were hydrogenated at ambient temperature and the atmosphere for 6-7 h. The catalyst was filtered off and replaced with a further quantity (1 g) of catalyst. The reaction mixture was hydrogenated for a further 7 h. This procedure was repeated again until no more hydrogen was absorbed. After filtration through kieselguhr and removal of solvent under reduced pressure, the title compound was obtained as a colourless oil (5.096 g, quant.); νmax (CH2Cl2) 3674, 3377(br), 1770 and 1722 cm-1 ; δH (CHC13) 1.08 (3 H, d, J 7.1 Hz), 1.72 (1 H, m), 2.16 (1 H, m), 2.68 (1 H, m), 3.94 (1 H, m), 4.18 (1 H, m), 4.47 (1 H, d, J 7.5 Hz) and 9.42 (1 H, v. br s, exch). [Mass spectrum: +ve ion (ammonia) MNH4+ (148)].

reactant | 3-Methyl-2-furoic acid | 5 g | CC1=C(OC=C1)C(=O)O | C6H6O3
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | rhodium | [Rh] | Rh
product | (2RS,3SR)-3-Methyl-2-Tetrahydrofuroic acid | CC1C(OCC1)C(=O)O | C6H10O3
